US05462954
2-Methyl-2-(1H-tetrazol-5-yl)-7-(2-ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)heptane
A mixture of 1.44 g of 2-methyl-2-cyano-7-(2-ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)heptane, 4.1 g of triethylamine hydrochloride, and 1.95 g of sodium azide in 40 mL of dimethylformamide was heated in an oil bath at 125° C. for 17 hours, adding an additional 4 g of triethylamine hydrochloride and 2 g of sodium azide after 5 hours. The mixture was cooled, diluted with water, acidified with 1.0N hydrochloric acid, and extracted with ethyl acetate. The organic phase was washed with water, washed with saturated sodium chloride, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with dichloromethane/methanol to provide 1.12 g (72%) of the desired title product. NMR.

reactant | 2-methyl-2-cyano-7-(2-ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)heptane | 1.44 g | CC(C)(CCCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)CC)C#N | C30H34FNO2
reactant | triethylamine hydrochloride | 4.1 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 1.95 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 4 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 2 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 1.0N | Cl | ClH
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Methyl-2-(1H-tetrazol-5-yl)-7-(2-ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)heptane | 1.12 g, 72% | CC(C)(CCCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)CC)C1=NN=NN1 | C30H35FN4O2
